US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride
A mixture of 8-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (2.31 g, 0.01 mole), 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride (2.49 g, 0.01 mole) and triethylamine (3.03 g) in absolute ethanol (50 ml) is refluxed for 24 hours. The reaction mixture is filtered. Hydrogen chloride gas is bubbled through the filtrate. The product is filtered off, washed with ethanol and sucked dry. Recrystallization from methanol gave the product (2.34 g), mp 265°-270° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.01 mole, 2.31 g | COC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO3
reactant | 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride | 0.01 mole, 2.49 g | Cl.ClCCN1CC2CCC(C1)CC2
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride | 2.34 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)OC | InChI=1S/C23H30N2O3.2ClH/c1-27-18-6-7-20-19-8-9-24(15-21(19)23(26)28-22(20)12-18)10-11-25-13-16-2-3-17(14-25)5-4-16;;/h6-7,12,16-17H,2-5,8-11,13-15H2,1H3;2*1H
